US07435837B2
Treatment of (±)-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.9 g, 5.75 mmol) with diisopropylethylamine (1.11 g, 8.62) and benzyl chloroformate (1.18 g, 6.89 mmol) generally according to the procedure described for Intermediate 12 afforded 2.14 g (87%) of (±)-benzyl[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate as a white solid. mp 87-89° C.; Anal. calcd. for C23H19Cl2NO3: C, 64.5; H, 4.47; N, 3.27. Found: C, 64.65; H, 4.78; N, 3.08.

reactant | (±)-1-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 5.75 mmol, 1.9 g | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2CC(OC21)CN | C15H13Cl2NO
reactant | diisopropylethylamine | 1.11 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 6.89 mmol, 1.18 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methylcarbamate | 2.14 g, 87% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl)=O | C23H19Cl2NO3
